US09326987B2
N-(2-(Methyloxy)-5-{4-[5-(6-oxa-9-azaspiro[4.5]dec-9-ylmethyl)-1,3,4-oxadiazol-2-yl]-1H-indazol-6-yl}-3-pyridinyl)methanesulfonamide
To a solution of 9-({5-[6-bromo-1-(phenylsulfonyl)-1H-indazol-4-yl]-1,3,4-oxadiazol-2-yl}methyl)-6-oxa-9-azaspiro[4.5]decane (74 mg, 0.133 mmol) in 1,4 dioxane (2.5 ml) and water (1 ml) was added N-[2-(methyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]methanesulfonamide (47.8 mg, 0.146 mmol), 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride (19.39 mg, 0.027 mmol) and potassium phosphate tribasic (84 mg, 0.398 mmol). The mixture was heated under microwave irradiation at 100° C. for 20 mins. The mixture was passed through a 1 g silica SPE cartridge, washing with MeOH. The solvent was removed under a stream of nitrogen and the residue was partitioned between DCM (10 ml) and water (10 ml), separated with a hydrophobic frit and the solvent again removed under a stream of nitrogen. The protected compound was dissolved in 1,4-dioxane (1 ml) and sodium hydroxide (1 ml, 2.000 mmol) and stirred at room temperature for 4 h. The mixture was evaporated to dryness under a stream of nitrogen. The residue was partitioned between ethyl acetate (5 ml) and saturated ammonium chloride (2 ml) and separated with a hydrophilic frit. The solvent was removed under a stream of nitrogen and the crude residue was dissolved in DMSO (1 ml) and purified by Mass Directed Automated Preparative HPLC. The appropriate fraction was blown down under a stream of nitrogen to give the title compound as a white solid (71.5 mg).

reactant | 9-({5-[6-bromo-1-(phenylsulfonyl)-1H-indazol-4-yl]-1,3,4-oxadiazol-2-yl}methyl)-6-oxa-9-azaspiro[4.5]decane | 0.133 mmol, 74 mg | BrC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C1=NN=C(O1)CN1CCOC2(CCCC2)C1 | C24H24BrN5O4S
reactant | N-[2-(methyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]methanesulfonamide | 0.146 mmol, 47.8 mg | COC1=NC=C(C=C1NS(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C13H21BN2O5S
reactant | potassium phosphate tribasic | 0.398 mmol, 84 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | sodium hydroxide | 2.000 mmol, 1 ml | [OH-].[Na+]
solvent | 1,4 dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride | 0.027 mmol, 19.39 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | N-(2-(Methyloxy)-5-{4-[5-(6-oxa-9-azaspiro[4.5]dec-9-ylmethyl)-1,3,4-oxadiazol-2-yl]-1H-indazol-6-yl}-3-pyridinyl)methanesulfonamide | 71.5 mg | COC1=NC=C(C=C1NS(=O)(=O)C)C1=CC(=C2C=NNC2=C1)C=1OC(=NN1)CN1CCOC2(CCCC2)C1 | C25H29N7O5S
